US04303656
2-(N,N-dimethylaminomethyl)-4-(4-methoxyphenyl)chroman
The process of example 4 was repeated using N,N-dimethylglycine ethyl ester in place of N,N-dimethylalanine ethyl ester in part (a), and using p-bromoanisole in place of 4-bromochlorobenzene in part (c) to yield the title compound which was isolated as the hydrobromide salt.

reactant | N,N-dimethylglycine ethyl ester | C(C)OC(CN(C)C)=O | C6H13NO2
reactant | p-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
product | 2-(N,N-dimethylaminomethyl)-4-(4-methoxyphenyl)chroman | CN(C)CC1OC2=CC=CC=C2C(C1)C1=CC=C(C=C1)OC | C19H23NO2
